US04136188
A mixture of 1.8 g of benzhydrylamine and 3.4 g of 1-methyl-2-methylmercapto-2-imidazoline.hydroiodide was allowed to stand at room temperature for 2 days. Chloroform was then distilled off to give 1.2 g of 1-methyl-2-benzhydryliminoimidazolidine.hydroiodide having a melting point of 254°-256° C.

reactant | benzhydrylamine | 1.8 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N | C13H13N
reactant | 1-methyl-2-methylmercapto-2-imidazoline.hydroiodide | 3.4 g | I.CN1C(=NCC1)SC
product | 1-methyl-2-benzhydryliminoimidazolidine.hydroiodide | 1.2 g | I.CN1C(NCC1)=NC(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C17H19N3.HI/c1-20-13-12-18-17(20)19-16(14-8-4-2-5-9-14)15-10-6-3-7-11-15;/h2-11,16H,12-13H2,1H3,(H,18,19);1H
